US07943795B2
F. Diastereomeric isomer pair 1 of 2-[6-{1-ethyl-1-[4-(1-ethyl-2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-naphthalene-2-carbonylamino]acetic acid
Add 2.5 M LiOH/H2O (0.82 ml, 2.04 mmol) to diastereomeric isomer pair 1 of 2-[6-{1-ethyl-1-[4-(1-ethyl-2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-naphthalene-2-carbonylamino]acetic acid methyl ester (373 mg, 0.681 mmol) in THF (3 ml), and MeOH (1.5 ml). Stir the reaction for 14 h; then partition the reaction mixture between Et2O and 1N HCl. Dry the organic layer with MgSO4, concentrate and triturate the residue with CH2Cl2/MeOH/hexanes to give the title compound as a white solid (310 mg, 85%). 1NMR (400 MHz, CDCl3) δ ppm: 0.64 (t, J=7.2 Hz, 6H), 0.93 (t, J=8.0 Hz, 3H), 0.93 (s, 9H), 1.68 (m, 1H), 1.81 (m, 1H), 2.11 (s, 3H), 2.15 (q, 4H), 3.28 (s, 1H), 4.27 (dd, J=5.2, 3.6 Hz, 1H), 4.35 (d, J=4.8 Hz, 2H), 6.63 (d, J=8.0 Hz, 1H), 6.83 (t, J=4.8 Hz, 1H), 6.89 (s, 1H), 6.93 (dd, J=6.4, 2.2 Hz, 1H), 7.18 (dd, J=7.2, 1.6 Hz, 1H), 7.74 (d, J=8.8 Hz, 1H), 7.88 (m, 3H), 8.27 (s, 1H). High Res. ES-MS: 556.3046; calc. for C33H43NO5+Na: 556.3040.

reactant | LiOH H2O | 2.04 mmol, 2.5 M, 0.82 ml | [Li+].[OH-].O
reactant | 2-[6-{1-ethyl-1-[4-(1-ethyl-2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-naphthalene-2-carbonylamino]acetic acid methyl ester | 0.681 mmol, 373 mg | COC(CNC(=O)C1=CC2=CC=C(C=C2C=C1)C(CC)(C1=CC(=C(C=C1)OC(C(C(C)(C)C)O)CC)C)CC)=O | C34H45NO5
reactant | MeOH | 1.5 ml | CO | CH4O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 2-[6-{1-ethyl-1-[4-(1-ethyl-2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-naphthalene-2-carbonylamino]acetic acid | 310 mg, 85% | C(C)C(CC)(C1=CC(=C(C=C1)OC(C(C(C)(C)C)O)CC)C)C=1C=C2C=CC(=CC2=CC1)C(=O)NCC(=O)O | C33H43NO5
